US05478842
Using an analogous procedure to that described in Example 6, 8-chloro-6-mercapto-1,2,3,4-tetrahydroquinolin-2-one was reacted with (2S,4R)-4-hydroxy-4-(3-iodophenyl)-2-methyltetrahydropyran to give (2S,4R)-4-[3-(8-chloro-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran in 69% yield as a gum;

reactant | 8-chloro-6-mercapto-1,2,3,4-tetrahydroquinolin-2-one | ClC=1C=C(C=C2CCC(NC12)=O)S | C9H8ClNOS
reactant | (2S,4R)-4-hydroxy-4-(3-iodophenyl)-2-methyltetrahydropyran | O[C@]1(C[C@@H](OCC1)C)C1=CC(=CC=C1)I | C12H15IO2
product | (2S,4R)-4-[3-(8-chloro-2-oxo-1,2,3,4-tetrahydroquinolin-6-ylthio)phenyl]-4-hydroxy-2-methyltetrahydropyran | 69% yield | ClC=1C=C(C=C2CCC(NC12)=O)SC=1C=C(C=CC1)[C@@]1(C[C@@H](OCC1)C)O | C21H22ClNO3S
